US08211908B2
To a suspension of 0.14 g of 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride in 5 mL of methanol, 0.14 g of a 28% sodium methoxide/methanol solution, 46 mg of 6-(3-thienyl)pyridine-2-carbaldehyde, 0.10 g of molecular sieves 3A, 28 μL of acetic acid and 15 mg of sodium cyanoborohydride were added at room temperature, and the mixture was stirred at the same temperature for 3 hours. To the reaction mixture, a saturated aqueous sodium hydrogen carbonate solution and chloroform were added, the organic layer was separated, washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by basic silica gel column chromatography using an eluent of chloroform:methanol=30:1. To a solution of the resultant residue in 2 mL of ethyl acetate, 2 mL of a 4 mol/L hydrogen chloride/ethyl acetate solution was added, and the mixture was stirred at room temperature for 30 minutes. The solid was filtered off to obtain 97 mg of 7-methoxy-1-(2-(4-(((6-(3-thienyl)pyridin-2-yl)methyl)amino)piperidin-1-yl)ethyl)-1,5-naphthyridin-2(1H)-one hydrochloride as a yellow solid.

reactant | 1-(2-(4-aminopiperidin-1-yl)ethyl)-7-methoxy-1,5-naphthyridin-2(1H)-one hydrochloride | 0.14 g | Cl.NC1CCN(CC1)CCN1C(C=CC2=NC=C(C=C12)OC)=O
reactant | sodium methoxide methanol | C[O-].[Na+].CO
reactant | 6-(3-thienyl)pyridine-2-carbaldehyde | 46 mg | S1C=C(C=C1)C1=CC=CC(=N1)C=O | C10H7NOS
reactant | sodium cyanoborohydride | 15 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 28 μL | C(C)(=O)O | C2H4O2
product | 7-methoxy-1-(2-(4-(((6-(3-thienyl)pyridin-2-yl)methyl)amino)piperidin-1-yl)ethyl)-1,5-naphthyridin-2(1H)-one hydrochloride | 97 mg | Cl.COC1=CN=C2C=CC(N(C2=C1)CCN1CCC(CC1)NCC1=NC(=CC=C1)C1=CSC=C1)=O | InChI=1S/C26H29N5O2S.ClH/c1-33-22-15-25-24(28-17-22)5-6-26(32)31(25)13-12-30-10-7-20(8-11-30)27-16-21-3-2-4-23(29-21)19-9-14-34-18-19;/h2-6,9,14-15,17-18,20,27H,7-8,10-13,16H2,1H3;1H
